US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 30 mg, 0.07 mmol) was dissolved in DMF (1 mL) prior to the addition of 4-methylmorpholine (38.2 μL, 0.348 mmol), (S)-tetrahydrofuran-3-amine-HCl (15.47 mg, 0.125 mmol), and BOP (55.4 mg, 0.125 mmol). The reaction mixture was stirred overnight and was then purified via preparative LCMS with the following conditions: Column: Waters XBridge C18, 19×250 mm, 5-μm particles; Guard Column: Waters XBridge C18, 19×10 mm, 5-μm particles; Mobile Phase A: 5:95 methanol:water with 10-mM ammonium acetate; Mobile Phase B: 95:5 methanol:water with 10-mM ammonium acetate; Gradient: 50-100% B over 25 minutes, then a 5-minute hold at 100% B; Flow rate=20 mL/min. Fractions containing the desired product were combined and dried via centrifugal evaporation to give (R/S)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)-N-((S)-tetrahydrofuran-3-yl)acetamide (12.9 mg, 0.026 mmol, 37.1% yield): LCMS=501.1 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.05-8.24 (4 H, m), 7.48-7.79 (14 H, m), 5.00-5.21 (2 H, m), 4.35-4.47 (2 H, m), 3.91-3.99 (2 H, m), 3.74-3.91 (4 H, m), 3.57-3.70 (2 H, m), 2.13-2.33 (2 H, m), 1.80-1.98 (2 H, m); Analytical LCMS: column: Mac-mod Halo C18, 4.6×50 mm, 2.7-μm particles; Mobile Phase A: 5:95 acetonitrile:water with 0.05% TFA; Mobile Phase B: 90:10 acetonitrile:water with 0.05% TFA; Temperature: 45° C.; Gradient: 0-100% B over 4 minutes, flow rate=4 mL/min, product retention=2.4 min (mixture of diastereomers).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.07 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 4-methylmorpholine | 0.348 mmol, 38.2 μL | CN1CCOCC1 | C5H11NO
reactant | (S)-tetrahydrofuran-3-amine-HCl | 0.125 mmol, 15.47 mg | Cl.O1C[C@H](CC1)N
reactant | BOP | 0.125 mmol, 55.4 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)-N-((S)-tetrahydrofuran-3-yl)acetamide | 0.026 mmol, 12.9 mg, 37.1% yield | OC(C(=O)N[C@@H]1COCC1)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C24H19F3N4O5
